US07923450B2
(6-Ethyl-8-phenyl-5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidin-2-yl)-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine
To a suspension of [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-(8-phenyl-5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidin-2-yl)-amine hydrochloride (75 mg, 0.17 mmol) in tetrahydrofuran (3.3 mL) was added at room temperature NN,-diisoprpyl ethyl amine (43 mg, 0.33 mmol). After stirring for 5 minutes at room temperature acetaldehyde (8.1 mg, 0.18 mmol), acetic acid (20 mg, 0.33 mmol) and sodium triacetoxyborohydride (106 mg, 0.50 mmol) were added. The reaction was stirred at room temperature over night. The solvent was evaporated under reduced pressure and the residue was purified by column chromatography on silica gel using dichloromethane/methanol (95:5 v/v) as eluent to yield the title compound (45 mg, 61%) as a yellow gum. MS ISN (m/e): 439.6 (100) [(M−H)−]. 1H NMR (CDCl3, 300 MHz): δ (ppm)=8.24 (s, 1H), 7.62 (s, 1H), 7.54 (s, 1H), 7.20-7.34 (m, 5H), 7.02 (d, 1H), 6.79 (s, 1H), 6.70 (d, 1H), 4.24 (m, 1H), 3.76 (d, 1H), 3.54 (d, 1H), 3.33 (s, 3H), 3.20 (dd, 1H), 2.60 (m, 3H), 2.67 (s, 3H), 1.17 (t, 3H).

reactant | [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-(8-phenyl-5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidin-2-yl)-amine hydrochloride | 0.17 mmol, 75 mg | Cl.COC=1C=C(C=CC1N1C=NC(=C1)C)NC=1N=CC2=C(N1)C(CNC2)C2=CC=CC=C2
reactant | ethyl amine | 0.33 mmol, 43 mg | C(C)N | C2H7N
reactant | acetaldehyde | 0.18 mmol, 8.1 mg | C(C)=O | C2H4O
reactant | acetic acid | 0.33 mmol, 20 mg | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.50 mmol, 106 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | tetrahydrofuran | 3.3 mL | O1CCCC1 | C4H8O
product | (6-Ethyl-8-phenyl-5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidin-2-yl)-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine | 45 mg, 61% | C(C)N1CC2=C(N=C(N=C2)NC2=CC(=C(C=C2)N2C=NC(=C2)C)OC)C(C1)C1=CC=CC=C1 | C26H28N6O
